US07776857B2
In an argon purged sealed pressure vessel was added 4-(4-chlorophenyl)-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine (0.120 g, 0.237 mmol), cesium carbonate (0.201 g, 0.617 mmol), X-phos (0.017 g, 0.0356 mmol), dichloropalladium bisacetonitrile (0.003 mg, 0.011 mmol), and acetonitrile (0.50 mL). Starting material was not soluble in acetonitrile, so added 0.5 mL 1,4 dioxane. Purged the reaction with argon, then added (triethylsilyl)acetylene (0.055 mL, 0.308 mmol), and again purged with vessel with argon, sealed, heated it to 90° C. The reaction was stirred for 1 h. Reaction complete by LC/MS. The reaction was cooled to RT, passed through pad of silica, washed with 100% CH2Cl2:MeOH(90:10)/CH2Cl2 and the organics were concentrated. The crude material was purified by silica gel chromatography eluting with 0-100% CH2Cl2:MeOH(90:10)/CH2Cl2. The product fractions were concentrated to yield N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)-4-(4-(2-(triethylsilyl)ethynyl)phenyl)phthalazin-1-amine as light yellow solid. MS [M+H]=610.2; Calc'd 609.8 for C37H35N5O2Si.

reactant | 4-(4-chlorophenyl)-N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)phthalazin-1-amine | 0.237 mmol, 0.120 g | ClC1=CC=C(C=C1)C1=NN=C(C2=CC=CC=C12)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=CN=C12)OC | C29H20ClN5O2
reactant | cesium carbonate | 0.617 mmol, 0.201 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | X-phos | 0.0356 mmol, 0.017 g | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | (triethylsilyl)acetylene | 0.308 mmol, 0.055 mL | C(C)[Si](CC)(CC)C#C | C8H16Si
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | dichloropalladium bisacetonitrile | 0.011 mmol, 0.003 mg | C(C)#N.C(C)#N.Cl[Pd]Cl
solvent | acetonitrile | 0.50 mL | C(C)#N | C2H3N
solvent | 1,4 dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | N-(4-(7-methoxy-1,5-naphthyridin-4-yloxy)phenyl)-4-(4-(2-(triethylsilyl)ethynyl)phenyl)phthalazin-1-amine | COC1=CN=C2C(=CC=NC2=C1)OC1=CC=C(C=C1)NC1=NN=C(C2=CC=CC=C12)C1=CC=C(C=C1)C#C[Si](CC)(CC)CC | C37H35N5O2Si
